US07989457B2
Step A. 1-[4-(5-Trifluoromethyl-pyridin-2-yl)-phenyl]-pentan-1-ol
To a solution of 4-(5-trifluoromethyl-pyridin-2-yl)-benzaldehyde (1.0 g, 3.98 mmol) in andhydrous tetrahydrifuran (THF) (25 mL) that had been cooled to 0° C. in an ice bath is added n-butyl magnesium bromide (8.0 mL, 16.0 mmol) dropwise with stirring under nitrogen. The mixture is allowed to warm slowly to room temperature. The reaction is monitored by HPLC, and upon complete consumption of the aldehyde, quenched with 1N HCl. The mixture is diluted with ethyl ether and water, then extracted. The organic layer is washed with water and brine, dried over anhydrous sodium sulfate and concentrated. The title compound is obtained after column chromatography (1.10 g or 3.20 mmol) at 80% yield.

reactant | 4-(5-trifluoromethyl-pyridin-2-yl)-benzaldehyde | 3.98 mmol, 1.0 g | FC(C=1C=CC(=NC1)C1=CC=C(C=O)C=C1)(F)F | C13H8F3NO
reactant | n-butyl magnesium bromide | 16.0 mmol, 8.0 mL | C(CCC)[Mg]Br
solvent | THF | C1CCOC1 | C4H8O
product | 1-[4-(5-Trifluoromethyl-pyridin-2-yl)-phenyl]-pentan-1-ol | 80% yield | FC(C=1C=CC(=NC1)C1=CC=C(C=C1)C(CCCC)O)(F)F | C17H18F3NO
